US05206240
2'-Hydroxy-5'-(methylsulfonylmethyl)acetophenone
To a solution of 2'-hydroxy-5'-(methylthiomethyl)acetophenone (2.20 g, 11.0 mmol) in 88 mL methanol cooled in an ice bath was added a solution of OXONE (commercial potassium peroxymonosulfate mixture, Aldrich Chemical Co.)(20.28 g, 33.0 mmol) in 88 mL water. The mixture was stirred two hours with cooling then partially concentrated in vacuo. The product was isolated in the same manner employed in the previous example to give after recrystallization from n-butylchloride 1.70 g (68%) product, as a white solid, mp 142°-144° C.:

reactant | 2'-hydroxy-5'-(methylthiomethyl)acetophenone | 11.0 mmol, 2.20 g | OC1=C(C=C(C=C1)CSC)C(C)=O | C10H12O2S
reactant | OXONE | 33.0 mmol, 20.28 g | OOS(=O)[O-].[K+]
reactant | methanol | 88 mL | CO | CH4O
solvent | water | 88 mL | O | H2O
product | 2'-Hydroxy-5'-(methylsulfonylmethyl)acetophenone | OC1=C(C=C(C=C1)CS(=O)(=O)C)C(C)=O | C10H12O4S
